US07884114B2
6-Chloro-8-fluoroquinoline
A solution of concentrated sulphuric acid (16 ml, 300 mmol) in water (12 ml) was treated with sodium 3-nitro-benzenesulfonate (commercially available, for example, from Aldrich) (11.3 g, 50 mmol) and glycerol (commercially available, for example, from Fisher and/or Aldrich) (12 ml, 160 mmol) to give a suspension. This was heated to 110° C. with stirring, and 4-chloro-2-fluoroaniline (commercially available, for example, from Aldrich) (5.6 ml, 50 mmol) was added. The reaction was heated to 140° C. and stirred overnight. The reaction mixture was cooled and then poured into water (400 ml) and basified to pH 11 with aqueous ammonium hydroxide (0.88 s.g., 60 ml). The brown precipitate that formed was collected by filtration and dried under suction. EtOAc was then added to the sinter funnel, dissolving most of the material to give a brown solution. This filtrate was concentrated in vacuo to give a brown solid (7.7 g). This was purified by chromatography on silica (2×100 g, eluting with 0-50% EtOAc-cyclohexane over 60 min). The relevant fractions were concentrated in vacuo to give the title compound as a yellow solid (6.5 g, 70%) LCMS RT=2.78 min, ES+ve m/z 182/184 [M+H]+.

reactant | sulphuric acid | 300 mmol, 16 ml | S(O)(O)(=O)=O | H2O4S
reactant | sodium 3-nitro-benzenesulfonate | [N+](=O)([O-])C=1C=C(C=CC1)S(=O)(=O)[O-].[Na+]
reactant | 4-chloro-2-fluoroaniline | ClC1=CC(=C(N)C=C1)F | C6H5ClFN
reactant | ammonium hydroxide | 60 ml | [OH-].[NH4+]
solvent | water | 12 ml | O | H2O
solvent | water | 400 ml | O | H2O
solvent | glycerol | OCC(O)CO | C3H8O3
product | 6-Chloro-8-fluoroquinoline | 7.7 g | ClC=1C=C2C=CC=NC2=C(C1)F | C9H5ClFN
